US05962462
Step A: N-Methyl-(2,5-dimethyl-2-phenylhex-4-enyl)amine
Methylamine hydrochloride (500 mg, 7.41 mmol), triethylamine (1.00 mL, 725 mg, 7.17 mmol), and 3 Å molecular sieve pellets (1.05 g) were added to a stirred solution of 2,5-dimethyl-2-phenylhex-4-enal (500 mg, 2.47 mmol) in 5.0 mL of methanol at room temperature. After 1 h, the mixture was cooled in an ice bath and acetic acid (0.29 mL, 0.30 g, 5.1 mmol) was added followed by sodium cyanoborohydride (310 mg, 4.93 mmol). The mixture was allowed to slowly come to room temperature and stirred 16 h before being diluted with ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate (30 mL) and saturated aqueous sodium chloride (30 mL). The aqueous layers were extracted with ethyl acetate (30 mL) and the combined organic layers were dried over sodium sulfate, decanted, and evaporated. The residue was purified by flash column chromatography on silica gel, eluting with 5% methanol in ethyl acetate to give 415 mg the title compound. 1H NMR (400 MHz, CD3OD): δ 7.36-7.28 (m, 4H), 7.18 (t, 1H, J=7 Hz), 4.88 (t, 1H, J=7.5 Hz), 2.87 (d, 1H, J=12 Hz), 2.66 (d, 1H, J=12 Hz), 2.39 (dd, 1H, J=14, 7.5 Hz), 2.30 (dd, 1H, J=14, 8 Hz), 2.27 (s, 3H), 1.59 (s, 3H), 1.54 (s, 3H), 1.34 (s, 3H). Mass spectrum (NH3 /CI): m/z=218 (M+1).

reactant | Methylamine hydrochloride | 7.41 mmol, 500 mg | Cl.CN
reactant | triethylamine | 7.17 mmol, 1.00 mL, 725 mg | C(C)N(CC)CC | C6H15N
reactant | 2,5-dimethyl-2-phenylhex-4-enal | 2.47 mmol, 500 mg | CC(C=O)(CC=C(C)C)C1=CC=CC=C1 | C14H18O
reactant | acetic acid | 5.1 mmol, 0.29 mL, 0.30 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.93 mmol, 310 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-Methyl-(2,5-dimethyl-2-phenylhex-4-enyl)amine | 415 mg | CNCC(CC=C(C)C)(C1=CC=CC=C1)C | C15H23N
